US08314100B2
1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine (Compound 94)
Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate and 1-(3,5-dimethylphenyl)piperazine were reacted by the same way with the example 85 to obtain the titled compound (yield, 86%). 1H NMR (300 MHz, CDCl3): δ 2.29 (s, 6H), 3.25-3.29 (m, 4H), 3.73-3.77 (m, 4H), 4.16 (s, 3H), 6.55-6.59 (m, 3H), 7.21-7.43 (m, 3H), 7.78-7.83 (m, 1H).

reactant | Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12FN3O3
reactant | 1-(3,5-dimethylphenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | 86% | FC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C)OC | C22H24FN5O2
